US07011838B2
Using 1.01 g of (3-chlorobenzyl)malononitrile, 5 ml of N,N-dimethylformamide, 1.38 g of potassium carbonate, and 1.44 g of 1-bromo-2-chloroethane, and according to the process described in the Production Example 1, there was obtained 0.60 g of 2-(3-chlorobenzyl)-2-(2-chloroethyl)malononitrile (the present compound (63)).

reactant | (3-chlorobenzyl)malononitrile | 1.01 g | ClC=1C=C(CC(C#N)C#N)C=CC1 | C10H7ClN2
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-chloroethane | 1.44 g | BrCCCl | C2H4BrCl
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(3-chlorobenzyl)-2-(2-chloroethyl)malononitrile | 0.60 g, Yield: 23% | ClC=1C=C(CC(C#N)(C#N)CCCl)C=CC1 | C12H10Cl2N2
